US07622480B2
This compound was prepared following the procedure described in example 24, part C, starting with 4.9 g (18 mmol) of 4-(1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester and 35.4 ml (21.6 mmol) of a 0.61 M solution of 3-bromomethylfurane. After standard work-up and purification, 6.14 g (43% of yield) of 4-(1-butyl-1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester | 18 mmol, 4.9 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CN=CC=C21 | C15H19N3O2
reactant | 3-bromomethylfurane | BrCC1=COC=C1 | C5H5BrO
product | 4-(1-butyl-1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidine-1-carboxylic acid ethyl ester | 6.14 g, 43% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CN=CC=C21)CCCC | C19H27N3O2
